US08008293B2
Synthesis of {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid t-butyl ester
Under a nitrogen atmosphere, 1-bromo-3,4,5-trifluorobenzene (2 mL) was added to a diethyl ether (200 mL) suspension of magnesium (6.87 g) and iodine (trace amount) and the resultant was heated by heatgun until reaction started. 1-bromo-3,4,5-trifluorobenzene (31.7 mL) was further added dropwise. Once reflux has stopped, stirring was continued for 1.5 hours at room temperature. Under a nitrogen atmosphere, previously prepared 3,4,5-trifluorophenyl magnesium bromide was added dropwise at −35° C. or less into a tetrahydrofuran (800 mL) solution of (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylic acid t-butyl ester (82.8 g) that was cooled to −40° C. Stirring was continued for 2 hours at −40° C., saturated ammonium chloride aqueous solution (200 mL) and water (300 mL) were added, and the temperature was raised to room temperature. Toluene (500 mL) was added, and the organic layer was partitioned. The organic layer was washed with brine. The aqueous layers were combined, ethyl acetate (400 mL) was added, and the organic layer was partitioned. The organic layers were combined and dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum. The residue was purified with silica gel column chromatography (heptane/ethyl acetate 9/1→8/2→3/1), and the title compound was obtained (82.6 g). The physical property values are as follows.

reactant | 1-bromo-3,4,5-trifluorobenzene | 2 mL | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | magnesium | 6.87 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-3,4,5-trifluorobenzene | 31.7 mL | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | 3,4,5-trifluorophenyl magnesium bromide | FC=1C=C(C=C(C1F)F)[Mg]Br
reactant | (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylic acid t-butyl ester | 82.8 g | C(C)(C)(C)OC(=O)N1[C@H](COCC1=O)COCC1=CC=CC=C1 | C17H23NO5
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | Toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid t-butyl ester | C(C)(C)(C)OC(N[C@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)COCC1=CC=CC=C1)=O | C23H26F3NO5
